US05646265
N4-Benzoyl-5'-O-(dimethoxytrityl)-2'-O-propylcytidine
N4-Benzoyl-2'-O-propylcytidine (3.0 g, 0.007 mol) was treated with dimethoxytrityl chloride (1.5 g) as per the procedure of Example 72 to give 1.5 g of pure product. Anal. Calcd. for C40H42N3O8.1/2H2O: C, 68.45; H, 6.18; N, 5.99. Found: C, 68.39; H, 5.99; N, 5.95.

reactant | N4-Benzoyl-2'-O-propylcytidine | 0.007 mol, 3.0 g | C(C1=CC=CC=C1)(=O)NC1=NC(N([C@H]2[C@H](OCCC)[C@H](O)[C@@H](CO)O2)C=C1)=O | C19H23N3O6
reactant | dimethoxytrityl chloride | 1.5 g | COC=1C(=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)Cl)C=CC1)OC | C21H19ClO2
product | N4-Benzoyl-5'-O-(dimethoxytrityl)-2'-O-propylcytidine | 1.5 g | C(C1=CC=CC=C1)(=O)NC1=NC(N([C@H]2[C@H](OCCC)[C@H](O)[C@@H](COC(C3=C(C(=CC=C3)OC)OC)(C3=CC=CC=C3)C3=CC=CC=C3)O2)C=C1)=O | C40H41N3O8
